////////////////////////////
// Single rram experiment //
// v0.1 28/09/2017        //
////////////////////////////

simulator lang=spectre
global 0 vdd! vss!

// Including parsed model. Original: '/opt/technology/tsmc40nm_18/models/spectre/toplevel.scs'
// top_localmconly top_tt
// include "/opt/technology/tsmc40nm_18/models/spectre/toplevel.scs" section=top_localmconly
include "/opt/technology/tsmc40nm_18/tsmcN40/../models/spectre/toplevel.scs" section=top_localmconly


// include "ommit/arizona_rram_cell_1r.scs"
include "ommit/arizona_rram_cells.scs"
include "ommit/sense_amplifier.scs"
include "nominal_simulation.scs"

// Parameters
parameters

// simulation
+ p_sim_time=130n
// + p_max_step=1n
+ p_max_step=10p
// temperature
+ p_T0=300
+ p_temp=(p_T0-273.15) // in celsius

// rram initial state
// Roff->Ron For set (3.68M)
// + p_rram_gap_ini=1.367e-9
+ p_rram_gap_ini=1.7e-9
+ p_rram_gap_ini_2=1.367e-9

// aux_resistance
// + p_r0=120k // 1M
+ p_r0=36k     // 350k

// vdd
+ p_vdd=1.8
// write pulse
+ p_up=5n p_fall=5n p_delay=10n p_write_length=100n
// write amp nominal
+ p_v_set=1.8 // fom simulations
// + p_v_set=1.7 // fom simulations
+ p_v_th=1.6 // fom simulations
+ p_write_amp=2*p_v_set
+ p_comp_v_tol = 0.1

// transistor
+ p_tx_p_l=40n
// + p_tx_p_w=120n
+ p_tx_p_w=1u

// voltage supply
VDD      ( vdd!     0 ) vsource dc=p_vdd type=dc
VSS      ( vss!     0 ) vsource dc=0      type=dc

// write voltage (pulse)
V0 (n_write 0) vsource type=pulse delay=p_delay val0=0 val1=p_write_amp rise=p_up fall=p_fall width=p_write_length
// write voltage (triangle)
// V0 (n_write 0) vsource type=pulse delay=p_delay val0=0 val1=p_write_amp rise=p_write_length/2 fall=p_write_length/2 width=0
V1 (n_sel 0) bsource v=v(n_gate)

// set characterization voltage
// Vcar (n_write 0) vsource type=pulse delay=p_delay val0=0 val1=p_write_amp rise=p_write_length/2 fall=p_write_length/2 width=p_write_length
// // rram_0 (n_write n_control)  rram_cell_1r rram_T0=p_T0 rram_gap_ini=p_rram_gap_ini
// rram_0 (n_write 0 n_sel)  rram_cell_1t1r rram_T0=p_T0 rram_gap_ini=p_rram_gap_ini


// //////////////
// OPTION A //
//////////////
// Memristor
// 1R no parasitics
rram_0 (n_write n_control)    rram_cell_1r_no_parasitics rram_T0=p_T0 rram_gap_ini=p_rram_gap_ini
rram_1 (n_write n_control_2)  rram_cell_1r_no_parasitics rram_T0=p_T0 rram_gap_ini=p_rram_gap_ini_2
// 1R with parasitics
// rram_0 (n_write n_control)    rram_cell_1r rram_T0=p_T0 rram_gap_ini=p_rram_gap_ini
// rram_1 (n_write n_control_2)  rram_cell_1r rram_T0=p_T0 rram_gap_ini=p_rram_gap_ini_2
// 1T1R with parasitics
// rram_0 (n_write n_control   n_gate)  rram_cell_1t1r rram_T0=p_T0 rram_gap_ini=p_rram_gap_ini
// rram_1 (n_write n_control_2 n_gate)  rram_cell_1t1r rram_T0=p_T0 rram_gap_ini=p_rram_gap_ini_2
// resistor
// r_0    (n_control 0)    resistor     r=p_r0
// r_1    (n_control_2 0)  resistor     r=p_r0
r_0 (n_control   0 0) rnwsti lr=10u wr=2u multi=(1) m=1
r_1 (n_control_2 0 0) rnwsti lr=10u wr=2u multi=(1) m=1

// source gate drain bulk
// tx_p_0 (0 n_gate n_drain 0) nch_mac l=p_tx_p_l w=p_tx_p_w m=1 nf=1
// v_aux (n_gate 0) bsource v= p_vdd/(1+exp(100*(v(n_control)-p_v_set)))
v_aux (n_gate 0) bsource v= v(n_control)>p_v_set ? 0 : p_vdd

// v_aux (n_gate 0) bsource v= 2*max(p_vdd - v(n_control), 0)
// v_aux (n_gate 0) bsource v= v(n_control)>p_v_set ? 0 : p_vdd
// v_aux (n_gate 0) bsource v= p_vdd*(1/( 1+exp(v(n_control)>p_v_set) ))


// //////////////
// // OPTION B //
// // with p_r0 from 5k to 150k with 1.8 v_set
// // with p_r0 from 5k to 200k with 2 v_set
// //////////////
// r_a    (n_write n_control)  resistor     r=p_r0/2
// rram_0 (n_control 0)  rram_cell_1r rram_T0=p_T0 rram_gap_ini=p_rram_gap_ini
// // rram_0 (n_write n_control n_gate)  rram_cell_1t1r rram_T0=p_T0 rram_gap_ini=p_rram_gap_ini
// // resistor
// r_0    (n_control 0)  resistor     r=p_r0
